US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.724 g) in dimethylforrnamide (10 mL) under argon was treated with 55% sodium hydride (0. 175 g), stirred for 15 minutes and treated with the mesylate of 2-(4-nitrophenoxy)ethanol (1.56 g). The mixture was heated at 60° C. overnight and worked up as in Example 20. The material was purified by HPLC (dichloromethane-hexane; 9:1) and crystallized from dichloromethane-hexane to provide 0.75 g of 4-[[2-(4-nitrophenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester as a 4:1 molar hydrate, mp 122°-123° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.724 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 175 g | [H-].[Na+]
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | 2-(4-nitrophenoxy)ethanol | 1.56 g | [N+](=O)([O-])C1=CC=C(OCCO)C=C1 | C8H9NO4
solvent | dimethylforrnamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-[[2-(4-nitrophenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.75 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C17H15NO7
